US08633173B2
2-Chloro-5-(2-methoxymethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine was prepared from 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine (546.0 mg, 2.35 mmol) and 2-(methoxymethyl)phenylboronic acid (545.0 mg, 3.29 mmol) in a manner analogous to Example 2c. Product was isolated as a white solid (0.384 g, 60%). 1H NMR (400 MHz, CDCl3, δ, ppm): 7.72-7.41 (m, 6H), 7.09-7.05 (m, 1H), 4.30 (br s, 2H), 3.16 (s, 3H). MS=274 (MH)+.

reactant | 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine | 2.35 mmol, 546.0 mg | BrC=1C=2N(C=CC1)N=C(N2)Cl | C6H3BrClN3
reactant | 2-(methoxymethyl)phenylboronic acid | 3.29 mmol, 545.0 mg | COCC1=C(C=CC=C1)B(O)O | C8H11BO3
product | 2-Chloro-5-(2-methoxymethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine | ClC1=NN2C(C=CC=C2C2=C(C=CC=C2)COC)=N1 | C14H12ClN3O
